US05948820
(3) Ethyl 2-ethyl-2-methoxycarbonylamino-4-(4-benzyloxyphenyl)butanoate
Triethylamine (45 ml) and ethyl chloroformate (21 ml) were added to a solution of 2-ethoxycarbonyl-2-ethyl-4-(2-(4-benzyloxyphenyl)ethyl)-butanoic acid (85 g) in tetrahydrofuran (430 ml) at 0° C. and the mixture was stirred at 0° C. for 35 minutes. A solution of sodium azide (14 g) in water (10 ml) was added thereto and the whole mixture was stirred at 0° C. for 3 hours. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated brine, dried over anhydrous sodium sulfate and the solvent was distilled away under reduced pressure to give a pale brown oily substance. The oily substance obtained was dissolved in benzene (300 ml) and the solution was refluxed under heating for 170 minutes. Methanol (50 ml) and p-toluenesulfonic acid monohydrate (catalytic amount) were added thereto and the mixture was further refluxed under heating for 10 minutes and allowed to stand at room temperature overnight. Ethyl acetate was added to the reaction mixture, and the mixture was washed with water and a saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure and the residue obtained was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=4:1) to give the subject compound (31 g).

reactant | ethyl chloroformate | 21 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-ethoxycarbonyl-2-ethyl-4-(2-(4-benzyloxyphenyl)ethyl)-butanoic acid | 85 g | C(C)OC(=O)C(C(=O)O)(CCCCC1=CC=C(C=C1)OCC1=CC=CC=C1)CC | C24H30O5
reactant | sodium azide | 14 g | [N-]=[N+]=[N-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | tetrahydrofuran | 430 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Methanol | 50 ml | CO | CH4O
solvent | Triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 2-ethyl-2-methoxycarbonylamino-4-(4-benzyloxyphenyl)butanoate | 31 g | C(C)C(C(=O)OCC)(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(=O)OC | C23H29NO5
